US07129246B2
(i) 2-({2-[(tert-Butoxycarbonyl)amino]ethyl}thio)-5-chloroisonicotinic acid
To a solution of 2,5-dichloroisonicotinic acid (1.82 g) in anhydrous N,N-dimethylformamide (10 ml) was added 60% sodium hydride (0.455 g) in small portions. After gas evolution had ceased tert-butyl 2-mercaptoethylcarbamate (1.60 ml) was added. The reaction mixture was then heated at 60° C. under nitrogen for 10 hours. Further amounts of 60% sodium hydride (0.225 g) and tert-butyl 2-mercaptoethylcarbamate (1.60 ml) were then added and heating was continued for 2 hours. The reaction mixture was concentrated and the residue suspended in 2M aqueous hydrochloric acid (25 ml) and extracted into ethyl acetate (3×25 ml). The combined extracts were dried over anhydrous sodium sulphate, filtered and concentrated. The residue was purified by chromatography on silica gel eluting with iso-hexane:ethyl acetate:acetic acid (6:4:0.1) to afford the sub-titled compound (1.0 g) as a colourless powder.

reactant | 2,5-dichloroisonicotinic acid | 1.82 g | ClC=1C=C(C(=O)O)C(=CN1)Cl | C6H3Cl2NO2
reactant | sodium hydride | 0.455 g | [H-].[Na+]
reactant | tert-butyl 2-mercaptoethylcarbamate | 1.60 ml | SCCNC(OC(C)(C)C)=O | C7H15NO2S
reactant | sodium hydride | 0.225 g | [H-].[Na+]
reactant | tert-butyl 2-mercaptoethylcarbamate | 1.60 ml | SCCNC(OC(C)(C)C)=O | C7H15NO2S
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-({2-[(tert-Butoxycarbonyl)amino]ethyl}thio)-5-chloroisonicotinic acid | 1.0 g | C(C)(C)(C)OC(=O)NCCSC=1C=C(C(=O)O)C(=CN1)Cl | C13H17ClN2O4S
